US05116941
After 5.5 g (7.6 mM) of Z-D-Glu(OtBu)-Gly-Arg-CHA was dissolved in 150 ml of MeOH, 1 g of palladium black was added to the solution followed by catalytic reduction at 30° C. for 5 hours. After the reaction, the catalyst was filtered off and the solvent was removed by distillation under reduced pressure. The residue was dissolved in 5.5 ml of 5% HCl-MeOH and 20 ml of MeOH. The solution was precipitated again in ether. The precipitates were taken out by filtration and dried and then purified through TOYOPEARL HW40F column using MeOH as a developing solvent to give 3.6 g (75.8%) of H-D-Glu(OtBu)-Gly-Arg-CHA.2HCl.

reactant | Z-D-Glu(OtBu)-Gly-Arg | 7.6 mM, 5.5 g | N([C@H](CCC(OC(C)(C)C)=O)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C25H38N6O8
solvent | MeOH | 150 ml | CO | CH4O
catalyst | palladium black | 1 g | [Pd] | Pd
product | H-D-Glu(OtBu)-Gly-Arg | 3.6 g, 75.8% | N[C@H](CCC(OC(C)(C)C)=O)C(=O)NCC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C17H32N6O6
